US04731375
[Preparation of 4-(3-cyano-2-oxo-8-chromenyloxy)butyric acid]
After 10 ml of ethanol was added to 6.0 g of 4-(3-cyano-2-oxo-8-chromenyloxy)butyric acid ethyl ester, 50 ml of 2N aqueous solution of sodium hydroxide was added to the mixture and the resultant was stirred for 5 minutes at room temperature. Then the reaction mixture was poured into a mixture of 10 ml of concentrated hydrochloric acid and 200 ml of ice water and a precipitate was filtered, which was recrystallized to give a desired compound.

reactant | 4-(3-cyano-2-oxo-8-chromenyloxy)butyric acid ethyl ester | 6.0 g | C(C)OC(CCCOC=1C=CC=C2C=C(C(OC12)=O)C#N)=O | C16H15NO5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(3-cyano-2-oxo-8-chromenyloxy)butyric acid | C(#N)C=1C(OC2=C(C=CC=C2C1)OCCCC(=O)O)=O | C14H11NO5
